US04429152
0.436 g (19 mmol) of sodium is dissolved in 20 ml of ethanol. Then 9.78 g (19 mmol) of 3-hydroxy-2,4,6-triiodobenzamide and subsequently 3.5 g (21 mmol) of ethyl bromoacetate are added thereto. The mixture is heated for one hour to reflux and, after several hours of stirring in an ice bath, the resultant 3-carbamoyl-2,4,6-triiodophenoxyacetic acid ethyl ester is vacuum-filtered, washed with a small amount of ice-cold ethanol, and suspended in 80 ml of water. The mixture is brought to pH 12 by adding concentrated sodium hydroxide solution, stirred for 30 minutes at 60° C., the solution is treated with 1 g of active carbon, filtered, and brought to pH 1 by the dropwise addition of dilute hydrochloric acid. After several hours of stirring in an ice bath, the thus-formed precipitate is vacuum-filtered, washed with water, and dried, thus obtaining 10.2 g (89% of theory) of 3-carbamoyl-2,4,6-triiodophenoxyacetic acid as a white powder, mp 211°-213° C. (decomposition).

reactant | sodium | 19 mmol, 0.436 g | [Na] | Na
reactant | 3-hydroxy-2,4,6-triiodobenzamide | 19 mmol, 9.78 g | OC=1C(=C(C(=O)N)C(=CC1I)I)I | C7H4I3NO2
reactant | ethyl bromoacetate | 21 mmol, 3.5 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-carbamoyl-2,4,6-triiodophenoxyacetic acid | 10.2 g, 89% | C(N)(=O)C=1C(=C(OCC(=O)O)C(=CC1I)I)I | C9H6I3NO4
